US06110868
b) Preparation of 2-acetyl-6-fluorobenzoic acid
9 g of 3-fluorophthalic anhydride and 6.8 g of malonic acid are mixed in 80 ml of triethylamine and heated in an oil bath at 71-72° until evolution of gas ceases. The reaction mixture is mixed with 50 ml of 10% HCl/H2O and extracted with ether. The ether is evaporated off and the resulting black oil chromatographed on a column using 1 l of 20% of ethylacetate/hexane followed by 1 l of 30% ethylacetate/hexane to yield first the 3fluoro-isomer followed by the desired 6-fluoro isomer; m.p. 76-81.5°.

reactant | 3-fluorophthalic anhydride | 9 g | FC1=C2C(C(=O)OC2=O)=CC=C1 | C8H3FO3
reactant | malonic acid | 6.8 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | HCl H2O | 50 ml | Cl.O
solvent | triethylamine | 80 ml | C(C)N(CC)CC | C6H15N
product | 2-acetyl-6-fluorobenzoic acid | C(C)(=O)C1=C(C(=O)O)C(=CC=C1)F | C9H7FO3
